US08058045B2
MeCN (0.72 mL) and 0.5M aqueous sodium carbonate (0.24 mL, 1.5 eq.) were added to a mixture of tert-butyl 4-((2-chloro-5-iodopyridin-4-ylamino)methyl)-4-fluoropiperidine-1-carboxylate (37 mg, 0.079 mmol), 4-methoxyphenylboronic acid (11.97 mg, 0.079 mmol), and tetrakis(triphenylphosphine)palladium(0) (4.55 mg, 3.94 μmol) in a 0.5 mL microwave reaction vial. The sealed vial was heated at 100° C. for 20 mins by microwave irradiation. The volatiles were removed in vacuo. The residue was dissolved in dichloromethane and loaded onto a 12+S Biotage silica column. Chromatography, eluting with a gradient of EtOAc in hexanes, gave tert-butyl 4-((2-chloro-5-(4-methoxyphenyl)pyridin-4-ylamino)methyl)-4-fluoropiperidine-1-carboxylate (17 mg, 0.038 mmol, 48%) as a colourless solid.

reactant | sodium carbonate | 0.5M, 0.24 mL, 1.5 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 4-((2-chloro-5-iodopyridin-4-ylamino)methyl)-4-fluoropiperidine-1-carboxylate | 0.079 mmol, 37 mg | ClC1=NC=C(C(=C1)NCC1(CCN(CC1)C(=O)OC(C)(C)C)F)I | C16H22ClFIN3O2
reactant | 4-methoxyphenylboronic acid | 0.079 mmol, 11.97 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.94 μmol, 4.55 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | MeCN | 0.72 mL | CC#N | C2H3N
product | tert-butyl 4-((2-chloro-5-(4-methoxyphenyl)pyridin-4-ylamino)methyl)-4-fluoropiperidine-1-carboxylate | 0.038 mmol, 17 mg, 48% | ClC1=NC=C(C(=C1)NCC1(CCN(CC1)C(=O)OC(C)(C)C)F)C1=CC=C(C=C1)OC | C23H29ClFN3O3
